US06531491B1
To a solution of phenyl-{3-styryl-1-[2-(trimethyl-silanyl)-ethoxymethyl]-1H-indazol-6-yl}-methanol (68 mg, 0.15 mmol) in dichloromethane (3 mL) at 23° C. under an atmosphere of argon was added periodinane (Dess-Martin reagent) (190 mg, 0.45 mmol). The resulting mixture was stirred at 23° C. for 1 hour. The solution was then diluted with hexane (3 mL) then filtered through Celite and concentrated under reduced pressure to a solid. The crude mixture was purified by silica gel chromatography (eluting with hexane:EtOAc 9:1) to give phenyl-{3-styryl-1-[2-(trimethyl-silanyl)-ethoxymethyl]-1H-indazol-6-yl}-methanone (54 mg, 79% yield). Rf sm=0.41, Rf p=0.63 (7:3 hexane:EtOAc); FTIR (thin film) 3059, 2952, 2894, 1659, 1474, 1448, 1307, 1249, 1078, 836, 649 cm−1. MS (ESI) [M+H]/z Calc'd 455, found 455.

reactant | phenyl-{3-styryl-1-[2-(trimethyl-silanyl)-ethoxymethyl]-1H-indazol-6-yl}-methanol | 0.15 mmol, 68 mg | C1(=CC=CC=C1)C(O)C1=CC=C2C(=NN(C2=C1)COCC[Si](C)(C)C)C=CC1=CC=CC=C1 | C28H32N2O2Si
reactant | Dess-Martin reagent | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | hexane | 3 mL | CCCCCC | C6H14
product | phenyl-{3-styryl-1-[2-(trimethyl-silanyl)-ethoxymethyl]-1H-indazol-6-yl}-methanone | 54 mg, 79% yield | C1(=CC=CC=C1)C(=O)C1=CC=C2C(=NN(C2=C1)COCC[Si](C)(C)C)C=CC1=CC=CC=C1 | C28H30N2O2Si
